### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Diam): drop `Finite α` from `ediam_le_two_mul_radius`

### PR DESCRIPTION
**Pull request by IvanRenison**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 1]
```diff
@@ -357,18 +357,38 @@ lemma radius_eq_zero_iff : G.radius = 0 ↔ Nonempty α ∧ Subsingleton α := b
...
+          ≤ G.edist u w + G.edist w v := G.edist_triangle
+        _ = G.edist w u + G.edist w v := by rw [edist_comm]
+        _ ≤ G.eccent w + G.eccent w := add_le_add edist_le_eccent edist_le_eccent
+        _ = 2 * G.eccent w := Eq.comm.mp (two_mul _)
+    have hdiam : G.ediam ≤ 2 * G.eccent w := ediam_le_of_edist_le hle
+    have ediam' : G.ediam < ⊤ := lt_of_le_of_lt hdiam (WithTop.mul_lt_top (ENat.coe_lt_top 2)
+      (lt_top_iff_ne_top.mpr hw'))
+    exact ediam'.ne_top
+  · intro hr
+    exact eq_top_iff.mpr (hr ▸ radius_le_ediam)
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean]:
```suggestion
  refine ⟨?_, fun hr ↦ eq_top_iff.mpr (hr ▸ radius_le_ediam)⟩
  contrapose
  intro hr
  obtain ⟨w, hw⟩ := G.exists_eccent_eq_radius
  have hdiam : G.ediam ≤ 2 * G.eccent w := by
    refine ediam_le_of_edist_le fun u v ↦ ?_
    calc
      G.edist u v
        ≤ G.edist u w + G.edist w v := G.edist_triangle
      _ = G.edist w u + G.edist w v := by rw [edist_comm]
      _ ≤ G.eccent w + G.eccent w := add_le_add edist_le_eccent edist_le_eccent
      _ = 2 * G.eccent w := (two_mul _).symm
  refine ne_top_of_lt <| lt_of_le_of_lt hdiam (WithTop.mul_lt_top (ENat.coe_lt_top 2) ?_)
  exact lt_top_iff_ne_top.mpr (hw ▸ hr)
```

**Review by Rida-Hamadani — APPROVED** [review]
Yeah me neither, but I was wondering if I'm missing something.
LGMT!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 2]
```diff
@@ -357,18 +366,26 @@ lemma radius_eq_zero_iff : G.radius = 0 ↔ Nonempty α ∧ Subsingleton α := b
...
 
-lemma ediam_le_two_mul_radius [Finite α] : G.ediam ≤ 2 * G.radius := by
+lemma ediam_eq_top_iff_radius_eq_top [Nonempty α] : G.ediam = ⊤ ↔ G.radius = ⊤ := by
+  refine ⟨?_, fun hr ↦ eq_top_iff.mpr (hr ▸ radius_le_ediam)⟩
+  contrapose
+  intro hr
+  obtain ⟨w, hw⟩ := G.exists_eccent_eq_radius
+  have hdiam : G.ediam ≤ 2 * G.eccent w := ediam_le_two_mul_eccent w
+  refine ne_top_of_lt <| lt_of_le_of_lt hdiam (WithTop.mul_lt_top (ENat.coe_lt_top 2) ?_)
+  exact lt_top_iff_ne_top.mpr (hw ▸ hr)
```
Comment (robin-carlier) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean]: Since we’re going with "term mode" here, might as well go

```suggestion
  exact ne_top_of_lt <| lt_of_le_of_lt hdiam <| WithTop.mul_lt_top (ENat.coe_lt_top 2) <|
    lt_top_iff_ne_top.mpr (hw ▸ hr)
```

**Review by robin-carlier — COMMENTED** [review]
I am not a graph theorist, but this looks very reasonable so
Thanks!

maintainer delegate
